US09359359B2
To a solution of 1-(3-(tert-butyldimethylsilyloxy)-2-methoxypropyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (150 mg, 0.22 mmol) in ethyl alcohol (5 mL) was added concentrated HCl (0.1 mL). The reaction was stirred for 10 minutes. Then it was concentrated and purified by preparative HPLC to give 7-(4-chlorobenzyl)-1-(3-hydroxy-2-methoxypropyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (18 mg, 16.2% yield) as white solid. 1H-NMR (DMSO-d6) δ 7.63-7.59(t, 1H), 7.50(s, 1H), 7.45-7.43(m, 5H), 7.34-7.32(d, 1H), 5.44(s, 2H), 4.65-4.62(t, 1H), 4.12-4.08(q, 1H), 3.84-3.79(q, 1H), 3.53-3.41(m, 2H), 3.29-3.28(d, 6H). LCMS retention time 3.089 min; LCMS MH+ 555.

reactant | 1-(3-(tert-butyldimethylsilyloxy)-2-methoxypropyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.22 mmol, 150 mg | [Si](C)(C)(C(C)(C)C)OCC(CN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC(F)(F)F)C)=O)OC | C30H36ClF3N4O6Si
reactant | HCl | 0.1 mL | Cl | ClH
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
product | 7-(4-chlorobenzyl)-1-(3-hydroxy-2-methoxypropyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 18 mg, 16.2% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CC(CO)OC)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C24H22ClF3N4O6
